US04456757
In 50 ml of dichloromethane was dissolved 1.73 g of 5-isoquinolinesulfonyl chloride, and to the solution were added 1.54 g of triethylamine and 8.0 g of monomethylamine hydrochloride. The mixture was stirred at a temperature of 10° C. to 15° C. for 18 hours. The reaction solution obtained was washed with water, dried with magnesium sulfate, and then the dichloromethane was distilled therefrom under reduced pressure. The residue obtained was subjected to a silica gel column chromatography (silica: 50 g; solvent: chloroform) to give 1.30 g of N-methyl-5-isoquinolinesulfonamide, i.e., Compound (25) in a yield of 77%.

reactant | 5-isoquinolinesulfonyl chloride | 1.73 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | triethylamine | 1.54 g | C(C)N(CC)CC | C6H15N
reactant | monomethylamine hydrochloride | 8.0 g | Cl.CN
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-methyl-5-isoquinolinesulfonamide | 1.30 g, yield of 77% | CNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C10H10N2O2S
